US06673784B1
To a slurry of activated zinc (6.25 g, 99.2 mmol) in 75 mL anhydrous THF, was added ethyl bromodifluoroacetate (11.0 mL, 85.8 mmol) and the mixture was heated to reflux. After a visible reaction had occurred, 2-nitrobenzaldehyde (5.0 g, 33.1 mmol) in 30 mL anhydrous THF, was added dropwise to maintain reflux. After 3 h, the solution was cooled to 23° C., diluted with EtOAc (50 mL), washed with 1M KHSO4 (2×50 mL) and brine (1×50 mL), and dried (Na2SO4). Concentration in vacuo yielded a residue which was purified by flash chromatography (chloroform:EtOH, 99:1) to afford 2-(3-ethoxy-3-oxo-2,2-difluoro-1-hydroxypropyl)nitrobenzene (8.28 g, 91%) as an orange oil, which was taken on to the next step without further characterization.

reactant | ethyl bromodifluoroacetate | 85.8 mmol, 11.0 mL | BrC(C(=O)OCC)(F)F | C4H5BrF2O2
reactant | 2-nitrobenzaldehyde | 33.1 mmol, 5.0 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | zinc | 99.2 mmol, 6.25 g | [Zn] | Zn
product | 2-(3-ethoxy-3-oxo-2,2-difluoro-1-hydroxypropyl)nitrobenzene | 8.28 g, 91% | C(C)OC(C(C(O)C1=C(C=CC=C1)[N+](=O)[O-])(F)F)=O | C11H11F2NO5
